US06090813
Trifluoroacetic acid (7.5 ml) was added in portions to a stirred, ice-cooled solution of 4-(4-bromothiophenoxy)-1-t-butoxycarbonylpiperidine (2.6 g) in dry dichloromethane (5 ml) under an atmosphere of argon so that the temperature of the mixture was maintained between 5 and 10° C. The solution was stirred at 5° C. for 1 hour, then at ambient temperature for 2 hours. The solution was evaporated. The residual oil was treated with a saturated aqueous solution of sodium carbonate and extracted with ethyl acetate (3×70 ml). The ethyl acetate extracts were combined, dried (Na2SO4) and evaporated. The residue was purified by flash column chromatography on silica gel, using a mixture of 95:5:3, ethyl acetate:methanol:aqueous ammonia (density 0.88 g/cm3) as eluent, to give 4-(4-bromothiophenoxy)piperidine (1.9 g) as an off-white solid;

reactant | Trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(4-bromothiophenoxy)-1-t-butoxycarbonylpiperidine | 2.6 g | BrC1=CC=C(SC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H22BrNO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(4-bromothiophenoxy)piperidine | 1.9 g | BrC1=CC=C(SC2CCNCC2)C=C1 | C11H14BrNS
